US08802704B2
Step 1: tert-butyl N-(4-cyano-2-fluorobenzyl)-N-methylglycinate
A mixture of 4-cyano-2-fluorobenzyl bromide (250 g, 1.17 mol), sarcosine tert-butyl ester hydrochloride (212.2 g, 1.17 mol) and potassium carbonate (484 g, 3.50 mol) in acetone (2 L) was stirred 24 hours at 50° C. and 18 hours at RT. The reaction mixture was filtered and the filtrate was concentrated under vacuum. The residue was taken up with water (1 L) and extracted with ethyl acetate (2×1 L). The combined organic layers were washed with water (1 L), dried (MgSO4) and concentrated under vacuum to give the title compound as a yellow-brown oil (325 g, quantitative). 1H NMR (DMSO-d6, 300 MHz) δ 7.82 (dd, J=9.9, 1.4 Hz, 1H), 7.70 (dd, J=7.9, 1.5 Hz, 1H), 7.64 (m, 1H), 3.78 (s, 2H), 3.23 (s, 2H), 2.27 (s, 3H), 1.42 (s, 9H). LC/MS (Method B): 279.2 (M+H)+.

reactant | 4-cyano-2-fluorobenzyl bromide | 1.17 mol, 250 g | C(#N)C1=CC(=C(CBr)C=C1)F | C8H5BrFN
reactant | sarcosine tert-butyl ester hydrochloride | 1.17 mol, 212.2 g | Cl.C(C)(C)(C)OC(CNC)=O
reactant | potassium carbonate | 3.50 mol, 484 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 L | CC(=O)C | C3H6O
product | tert-butyl N-(4-cyano-2-fluorobenzyl)-N-methylglycinate | 325 g | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)F | C15H19FN2O2
